US06884801B1
2-Amino-N′-(tert-butyl)benzohydrazide (prepared from tert-butylhydrazine and isatoic anhydride using the method described in Example 44) and CMI were reacted using conditions described in the general procedure for CMI coupling to give N′-(tert-butyl)-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]benzohydrazide.

reactant | 2-Amino-N′-(tert-butyl)benzohydrazide | NC1=C(C(=O)NNC(C)(C)C)C=CC=C1 | C11H17N3O
reactant | tert-butylhydrazine | C(C)(C)(C)NN | C4H12N2
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
product | N′-(tert-butyl)-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]benzohydrazide | C(C)(C)(C)NNC(C1=C(C=CC=C1)NCC=1NCCN1)=O | C15H23N5O
